US05508300
4-Acetyl-3-hydroxy-2-oxo-2,5-dihydropyrrole
A solution of ethyl 2,4-dioxovalerate (1.13 g, 7.11 mmole), dimethylmethylene ammonium chloride (0.67 g, 7.11 mmole) and acetonitrile (3 ml) was stirred at 25° C. over 45 minutes. The resulting yellow homogeneous solution was then cooled to -40° C. and ammonia gas was bubbled through the mixture over 5 minutes, during which time a yellow solid precipitated out of solution. The stirred mixture was allowed to slowly warm to 5° C. over a period of 1 hour before addition of concentrated ammonium hydroxide (4 ml). After stirring for 1 hour, the mixture was concentrated under reduced pressure, diluted with 3N HCl (6 ml) and extracted with ethyl acetate (50 ml×10). The combined organics were dried over sodium sulfate, filtered and concentrated under reduced pressure to give 0.34 g of the title compound as a yellow amorphous solid. M.P. 178°-180° C. (dec); 1H nmr (250 MHz, DMSO-d6 ) δ 2.42 (s, 3H), 3.78 (s, 2H), 8.87 (s, 1H); Anal. calcd. for C5H7NO3 : C, 51.07; H, 5.00; N, 9.92. Found: C, 51.18; H, 5.23; N, 9.73.

reactant | ethyl 2,4-dioxovalerate | 7.11 mmole, 1.13 g | O=C(C(=O)OCC)CC(C)=O | C7H10O4
reactant | dimethylmethylene ammonium chloride | 7.11 mmole, 0.67 g | [Cl-].CC(C)=[NH2+]
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 4-Acetyl-3-hydroxy-2-oxo-2,5-dihydropyrrole | 0.34 g | C(C)(=O)C1=C(C(NC1)=O)O | C6H7NO3
